US05185360
5,10-Dihydro-6-chloroindeno[1,2-b]indole
The o-chlorophenylhydrazone of 1-indanone (650 mg, 2.5 mmol) was boiled in a chloroform solution of polyphosphonate ester (see the preparation of 5,10-dihydro-8-methoxyindeno[1,2-b]indole) for 30 minutes. The solvent was removed, and the residue stirred in water (75 cm3) for 1 hour. Extraction into diethylether gave a green solution which was washed with water, dried (MgSO4), and evaporated. Purification by column chromatography (Rf [5% EtOAc/petrol (60°-80° C.)]0.5), gave the title compound as a colourless solid. Yield 500 mg, (82%). M.p. 139° C. 1H NMR (CDCl3) δ: 3.72 (2H,s,), 7.0-7.6 (7H, m,), 8.5 (1H, br,).

reactant | 1-indanone | 2.5 mmol, 650 mg | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | 5,10-dihydro-8-methoxyindeno[1,2-b]indole | COC1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C16H13NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5,10-Dihydro-6-chloroindeno[1,2-b]indole | ClC1=CC=CC=2C3=C(NC12)C1=CC=CC=C1C3 | C15H10ClN
